US05563141
Diethylazodicarboxylate (24.6 ml) was added dropwise to a stirred solution of triphenylphosphine (39.3 g) in THF (120 ml) at 0° C. under argon. The mixture was stirred for 20 minutes, then treated sequentially with lithium bromide (26.1 g) and a solution of 1-benzyloxycarbonylpiperidine-4-ol (7.1 g) in THF (50 ml). The mixture was allowed to warm to room temperature and stirring was continued for 1 hour. The mixture was concentrated, the residue treated with ether (100 ml) and silica (60 ml), and the solvent was evaporated under reduced pressure. The resulting powder was added to the top of a flash column and the column was eluted with hexane/ether (4:1) to give 1-benzyloxycarbonyl-4-bromopiperidine (3.6 g) as a colourless oil. NMR: (CDCl3): δ, 1.8-2.0(2H,m); 2.0-2.2(2H,m); 3.3-3.5(2H,m); 3.6-3.8(2H,m); 4.35(1H,m); 5.1(2H,s); 7.3(5H,m) m/e 298/300(M+H)+ ; 320/322(M+Na)+.

reactant | Diethylazodicarboxylate | 24.6 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 39.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium bromide | 26.1 g | [Br-].[Li+]
reactant | 1-benzyloxycarbonylpiperidine-4-ol | 7.1 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)O | C13H17NO3
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-benzyloxycarbonyl-4-bromopiperidine | 3.6 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)Br | C13H16BrNO2
